US06809108B1
Synthesis of methyl 3,3,3-tris(4-vinylphenyl)propionate
The title compound was synthesized referring to Shirakawa, et al.'s method [J. Chem. Soc., Perkin Trans. 1, 2449-2450 (1997)]. To a solution of 71 mg of nickel(II)-acetylacetonate dihydrate and 289 mg of triphenylphosphine in 2 ml of 1,2-dimethoxyethane, 0.544 ml of 1.0 M diisobutylaluminium hydride-toluene solution was added at room temperature in nitrogen atmosphere, and the whole system was added to a solution of 364 mg of methyl 3,3,3-tris(4-chlorophenyl)propionate and 1.01 g of vinyltributyltin in 5 ml of 1,2-dimethoxyethane at room temperature, followed by 22 hours' stirring at 80° C. Further, a system formed by adding 0.544 ml of 1.0 M diisobutylaluminium hydride-toluene solution to a solution of 71 mg of nickel(II)-acetylacetonate dihydrate and 289 mg of triphenylphosphine in 2 ml of 1,2-dimethoxyethane at room temperature in nitrogen atmosphere was added at room temperature, followed by 17 hours' stirring at 80° C. under heating. The reaction liquid was cooled to room temperature and 1N potassium fluoride was added, followed by 2 hours' stirring at room temperature. Filtering the reaction liquid through cerite, the filtrate was diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resulting residue was purified by means of silica gel column chromatography (eluting solvent: hexane/ethyl acetate=300/7-hexane/ethyl acetate=300/10) to provide 166 mg of the title compound.

reactant | triphenylphosphine | 289 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3,3,3-tris(4-chlorophenyl)propionate | 364 mg | ClC1=CC=C(C=C1)C(CC(=O)OC)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C22H17Cl3O2
reactant | vinyltributyltin | 1.01 g | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | triphenylphosphine | 289 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium fluoride | 1N | [F-].[K+]
reactant | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
reactant | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
reactant | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | diisobutylaluminium hydride toluene | 1.0 M, 0.544 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diisobutylaluminium hydride toluene | 1.0 M, 0.544 ml | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
product | methyl 3,3,3-tris(4-vinylphenyl)propionate | 166 mg | C(=C)C1=CC=C(C=C1)C(CC(=O)OC)(C1=CC=C(C=C1)C=C)C1=CC=C(C=C1)C=C | C28H26O2
